US07276603B2
A mixture of 2-(7-methoxy-1-benzofuran-3-yl)ethyl iodide (301 mg. 1 mmol) (obtained by the above mentioned process) and 8-piperazino quinoline (213 mg, 1 mmol) was heated at 120° C. in DMSO in the presence of N,N-diisopropylethylamine (5 ml, excess) for 24 hrs. Afterwards, the reaction mixture was quenched with water and extracted with chloroform. The organic layer was washed with water and dried over anhydrous MgSO4 and concentrated to dryness. The dark colored low melting solid was purified by silica-gel column chromatography by initially eluting it with 70% ethyl acetae:hexane and then with 5% methanol:ethyl acetate. 8-{4-[2-(7-methoxy-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-quinoline was isolated as a dark brown low melting solid. Yield: (HCl salt) 90 mg (21%); (M+H): 388; 1H NMR: δ□11.9 (bs, 1H), 9.2 (d, 1H), 9.0 (bs 1H), 8.2 (m, 2H), 7.9 (s1H), 7.84 (m, 2H), 7.45 (d, 1H), 7.21 (t, 1H), 6.98 (d, 1H), 4.01 9s, 3H), 3.77 (m, 4H), 3.67 9m, 2H), 3.59 (m, 4H), 3.3 (m, 2H).

reactant | 2-(7-methoxy-1-benzofuran-3-yl)ethyl iodide | 1 mmol, 301 mg | COC1=CC=CC=2C(=COC21)CCI | C11H11IO2
reactant | 8-piperazino quinoline | 1 mmol, 213 mg | N1(CCNCC1)C=1C=CC=C2C=CC=NC12 | C13H15N3
reactant | N,N-diisopropylethylamine | 5 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMSO | CS(=O)C | C2H6OS
product | 8-{4-[2-(7-methoxy-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-quinoline | COC1=CC=CC=2C(=COC21)CCN2CCN(CC2)C=2C=CC=C1C=CC=NC21 | C24H25N3O2
